US06096761
A mixture 1,2,3,6-tetrahydro-1-(phenylmethyl)-4-pyridinemethanol (0.367 mol) and THF (1000 ml) was stirred at -70° C. and a solution of borane in THF (1 M) was added dropwise thereto. After the addition, the reaction mixture was allowed to warm up to room temperature and stirred at room temperature for 18 h. The reaction mixture was cooled to -10° C. and water (23 ml) was added dropwise, NaOH (3M in water, 18 ml) was added dropwise and hydrogen peroxide (30% solution in water, 28 ml) was added dropwise at the same time. Then, simultaneously, NaOH (3M in water, 36 ml) and the hydrogen peroxide (30% solution in water, 29 ml) was added dropwise. Again NaOH (50% in water, 80 ml) was added. The reaction mixture was stirred at reflux for 4 hours. The reaction mixture was cooled and filtered. The filtrate was evaporated. The resulting precipitate was dissolved in water (500 ml) and saturated with K2CO3. The product was extracted with CH2Cl2. The resulting solution was dried over MgSO4 and evaporated. The residue was crystallized from DIPE/CH3CN. After several crystallizations a total yield of 40, 8 g of (±)-trans-1-(phenylmethyl)-3-hydroxy-4-piperidinemethanol was obtained (Yield: 50.1%).

reactant | 1,2,3,6-tetrahydro-1-(phenylmethyl)-4-pyridinemethanol | 0.367 mol | C1(=CC=CC=C1)CN1CCC(=CC1)CO | C13H17NO
reactant | borane | B | BH3
reactant | NaOH | 3M, 18 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 28 ml | OO | H2O2
reactant | NaOH | 3M, 36 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 29 ml | OO | H2O2
reactant | NaOH | 80 ml | [OH-].[Na+]
solvent | THF | 1 M | C1CCOC1 | C4H8O
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
solvent | water | 23 ml | O | H2O
product | (±)-trans-1-(phenylmethyl)-3-hydroxy-4-piperidinemethanol | 8 g, Yield: 50.1% | C1(=CC=CC=C1)CN1C[C@H]([C@@H](CC1)CO)O | C13H19NO2
